US05962723
To 50 ml of a THF solution with 10.0 g of ethyl (E)-α-hydroxyimino-o-tolylacetate (48 mmol), 2.2 g of 60%-sodium hydride (53 mmol) was added under ice-cooling and the solution was stirred for 30 minutes. The solution, to which 6.7 g of dimethyl sulfate (53 mmol) was added dropwise, was stirred at room temperature for one more hour. Water and ethyl acetate were added to the reaction solution, and the organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give 10.4 g of ethyl (E)-α-methoxyimino-o-tolylacetate (yield; 98%).

reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | ethyl (E)-α-hydroxyimino-o-tolylacetate | 48 mmol, 10.0 g | O\N=C(\C(=O)OCC)/C1=C(C=CC=C1)C | C11H13NO3
reactant | sodium hydride | 53 mmol | [H-].[Na+]
reactant | dimethyl sulfate | 53 mmol, 6.7 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | ethyl (E)-α-methoxyimino-o-tolylacetate | 10.4 g, yield; 98% | CO\N=C(\C(=O)OCC)/C1=C(C=CC=C1)C | C12H15NO3
